US07183306B2
A mixture of N-(2-{4-[3-amino-1-(4-methoxyphenyl)-1H-pyrazol-5- yl]phenoxy}ethyl)urea 111 mg, lithium chloride 64 mg, and copper (II) chloride 81.2 mg in acetonitrile 2 ml was stirred at ambient temperature for 10 minutes. To this mixture was added isoamyl nitrite 62.3 mg, and the mixture was stirred at ambient temperature for 3 hours. The mixture was partitioned between ethyl acetate and saturated aqueous ammonium chloride solution. The organic layer was washed with saturated aqueous ammonium chloride solution, H2O, and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by MeOH/CHCl3=10%. The separated silica gel was extracted with 10% MeOH/CHCl3 and the solvent was evaporated in vacuo. The residue was crystallized from AcOEt/IPE to give N-(2-{4-[3-chloro-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea 31.1 mg as a white powder.

reactant | N-(2-{4-[3-amino-1-(4-methoxyphenyl)-1H-pyrazol-5- yl]phenoxy}ethyl)urea | 111 mg | NC1=NN(C(=C1)C1=CC=C(OCCNC(=O)N)C=C1)C1=CC=C(C=C1)OC | C19H21N5O3
reactant | lithium chloride | 64 mg | [Cl-].[Li+]
reactant | isoamyl nitrite | 62.3 mg | N(=O)OCCC(C)C | C5H11NO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 81.2 mg | [Cu](Cl)Cl
product | N-(2-{4-[3-chloro-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea | 31.1 mg | ClC1=NN(C(=C1)C1=CC=C(OCCNC(=O)N)C=C1)C1=CC=C(C=C1)OC | C19H19ClN4O3
